US08097628B2
To a solution of N-((1S)-2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1-{[(phenylmethyl)oxy]methyl}ethyl)-6-(methyloxy)-3-nitro-2-pyridinamine (642.6 g, 1.436 mol) in MeOH (12 L) was added a suspension of zinc dust (938 g, 14.35 mol) in MeOH (4 L). Acetic acid (411 ml, 7.18 mol) was added dropwise over ˜30 min such that the temperature remained below 36° C. When the addition was complete the mixture was stirred for 15 min. The reaction mixture was filtered through celite and the cake was washed with EtOAc (8 L). The mixture was washed with brine (8 L) and the layers were separated. The aqueous phase was extracted with EtOAc (8+6 L) then the organic phases were combined, washed with saturated NaHCO3 (8 L), brine (8 L), dried over MgSO4 (1 kg) and filtered. The filtrate was evaporated to give 478 g (80%) of N2-((1S)-2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1-{[(phenylmethyl)oxy]methyl}ethyl)-6-(methyloxy)-2,3-pyridinediamine as a dark red viscous oil.

reactant | N-((1S)-2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1-{[(phenylmethyl)oxy]methyl}ethyl)-6-(methyloxy)-3-nitro-2-pyridinamine | 1.436 mol, 642.6 g | CC(C)(C)[Si](OC[C@H](COCC1=CC=CC=C1)NC1=NC(=CC=C1[N+](=O)[O-])OC)(C)C | C22H33N3O5Si
reactant | Acetic acid | 7.18 mol, 411 ml | C(C)(=O)O | C2H4O2
solvent | MeOH | 12 L | CO | CH4O
solvent | MeOH | 4 L | CO | CH4O
catalyst | zinc | 14.35 mol, 938 g | [Zn] | Zn
product | N2-((1S)-2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1-{[(phenylmethyl)oxy]methyl}ethyl)-6-(methyloxy)-2,3-pyridinediamine | 478 g, 80% | CC(C)(C)[Si](OC[C@H](COCC1=CC=CC=C1)NC1=NC(=CC=C1N)OC)(C)C | C22H35N3O3Si
